US05811428
2-CHLORO-4-METHYLPYRIMIDINE-5-CARBONYL CHLORIDE
A solution of 2-chloro-4-methylpyrimidine-5-carboxylic acid (0.81 g, 4.70 mmol), oxalyl chloride (0.89 g, 7.05 mmol), DMF (2 drops) in CH2 Cl2 (23 mL) was stirred at room temperature under N2 for 4 h. The solution was concentrated and distilled to give the title compound (0.55 g, 61%); b.p. 90°-100° C., 1.3 mm/Hg; 1HNMR (CDCl3) δ d 9.02 (s, 1H), 2.74 (s, 3H).

reactant | 2-chloro-4-methylpyrimidine-5-carboxylic acid | 4.70 mmol, 0.81 g | ClC1=NC=C(C(=N1)C)C(=O)O | C6H5ClN2O2
reactant | oxalyl chloride | 7.05 mmol, 0.89 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | Cl2 | 23 mL | ClCl | Cl2
product | 2-CHLORO-4-METHYLPYRIMIDINE-5-CARBONYL CHLORIDE | 0.55 g, 61% | ClC1=NC=C(C(=N1)C)C(=O)Cl | C6H4Cl2N2O
